US08912208B2
C. {4-[4-(6-Chloro-pyridazin-3-yl)-phenyl]-cyclohexyl}-acetic acid ethyl ester
A 50 Ml flask was charged with {4-[4-(6-oxo-1,6-dihydro-pyridazin-3-yl)-phenyl]-cyclohexyl}-acetic acid ethyl ester (0.76 g, 2.2 mmol, 1.0 equiv) in 20 Ml toluene followed by phosphorous oxychloride (0.62 Ml, 6.7 mmol, 3.0 equiv). The suspension was heated to 100° C., at which point a homogeneous solution ensued. The reaction was stirred overnight at 100° C., then cooled to room temperature. Removal of volatiles in vacuo afforded the title compound: 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.07-1.17 (m, 2 H) 1.20 (t, J=7.07 Hz, 3 H) 1.43-1.53 (m, 2 H) 1.78-1.90 (m, 5 H) 2.18 (d, J=6.57 Hz, 2 H) 2.44-2.52 (m, 1 H) 4.08 (q,J=7.07 Hz, 2 H) 7.29 (d, J=8.34 Hz, 2 H) 7.46 (d, J=9.09 Hz, 1 H) 7.72 (d, J=9.09 Hz, 1 H) 7.90 (d, J=8.59 Hz, 2 H); (M+H)+ 359.

reactant | {4-[4-(6-oxo-1,6-dihydro-pyridazin-3-yl)-phenyl]-cyclohexyl}-acetic acid ethyl ester | 2.2 mmol, 0.76 g, 1.0 equiv | C(C)OC(CC1CCC(CC1)C1=CC=C(C=C1)C1=NNC(C=C1)=O)=O | C20H24N2O3
reactant | phosphorous oxychloride | 6.7 mmol, 3.0 equiv | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | {4-[4-(6-Chloro-pyridazin-3-yl)-phenyl]-cyclohexyl}-acetic acid ethyl ester | C(C)OC(CC1CCC(CC1)C1=CC=C(C=C1)C=1N=NC(=CC1)Cl)=O | C20H23ClN2O2
